datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C1/C(=N\[O-:10])C=C(S(=O)(=O)[O-])c2cn[nH]c21.O=S(=O)([O-])c1cc([O:21][H:20])cc2[nH]ncc12>>O=C1/C(=N\[O:10][H:20])C=C(S(=O)(=O)[O-])c2cn[nH]c21.O=S(=O)([O-])c1cc([O-:21])cc2[nH]ncc12 10=20;20,21=21",
"C[C@]1([NH3+])C[C@]1(C)[NH2:10].Nc1ccc(S(=O)(=O)[N:21](Cc2ccco2)[H:20])cc1>>C[C@]1([NH3+])C[C@]1(C)[NH2+:10][H:20].Nc1ccc(S(=O)(=O)[N-:21]Cc2ccco2)cc1 10=20;20,21=21",
"C[NH+](C)Cc1cc(O)c(O)c(C[N:10](C)C)c1.Cc1ccc(C(=O)[O:21][H:20])s1>>C[NH+](C)Cc1cc(O)c(O)c(C[N+:10](C)(C)[H:20])c1.Cc1ccc(C(=O)[O-:21])s1 10=20;20,21=21",
"C(COCCc1nnn[n:21]1[H:20])OCCc1nnn[n-]1.Cc1n[n:10]c2c(c1C)CCC2>>C(COCCc1nnn[n-:21]1)OCCc1nnn[n-]1.Cc1n[n+:10]([H:20])c2c(c1C)CCC2 10=20;20,21=21",
"CC[NH+](CC)CCOCC[N+:21](C)(C)[H:20].O=[N+]([O-])C1=CC([N+](=O)[O-])=C([O-:10])C=C1>>CC[NH+](CC)CCOCC[N:21](C)C.O=[N+]([O-])C1=CC([N+](=O)[O-])=C([O:10][H:20])C=C1 10=20;20,21=21",
"CC(C)(C)[NH2+]CC(=O)c1ccc([O:21][H:20])cc1.Cc1cc(C)[n:10]c([S-])n1>>CC(C)(C)[NH2+]CC(=O)c1ccc([O-:21])cc1.Cc1cc(C)[n+:10]([H:20])c([S-])n1 10=20;20,21=21",
"CCCCCCCP(CCCCCCC)(NC1CCCCC1)=[O:10].CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc(Cl)c1[O:21][H:20]>>CCCCCCCP(CCCCCCC)(NC1CCCCC1)=[O+:10][H:20].CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc(Cl)c1[O-:21] 10=20;20,21=21",
"CC(=O)c1cccc([O:21][H:20])c1.CCC(=O)c1cc(C(=O)c2ccccc2)n[n-:10]1>>CC(=O)c1cccc([O-:21])c1.CCC(=O)c1cc(C(=O)c2ccccc2)n[n:10]1[H:20] 10=20;20,21=21",
"COc1ccc(-c2c[n+:21]([H:20])c(-c3ccc(OC)cc3)o2)cc1.O=[N+]([O-])c1ccccc1-c1nnn[n-:10]1>>COc1ccc(-c2c[n:21]c(-c3ccc(OC)cc3)o2)cc1.O=[N+]([O-])c1ccccc1-c1nnn[n:10]1[H:20] 10=20;20,21=21",
"C#C[C@]1(O)C[C@@H](C)[N:10](C)[C@H]2CCCC[C@@H]21.[NH3+]CCCCCCC#CC#CCCC(=O)[O:21][H:20]>>C#C[C@]1(O)C[C@@H](C)[N+:10](C)([H:20])[C@H]2CCCC[C@@H]21.[NH3+]CCCCCCC#CC#CCCC(=O)[O-:21] 10=20;20,21=21",
"CN1C(=O)c2c(ncn2C)[N-:10]C1=O.O=[N+]([O-])C1=CC([N+](=O)[O-])=C([O:21][H:20])C=C1>>CN1C(=O)c2c(ncn2C)[N:10]([H:20])C1=O.O=[N+]([O-])C1=CC([N+](=O)[O-])=C([O-:21])C=C1 10=20;20,21=21",
"Cc1c[n+:21]([H:20])cc(C)[nH+]1.c1ccc2c(c1)CCC2[NH2:10]>>Cc1c[n:21]cc(C)[nH+]1.c1ccc2c(c1)CCC2[NH2+:10][H:20] 10=20;20,21=21",
"O=C1C=C(O)c2ccc([O-:10])cc2O1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C1C=C(O)c2ccc([O:10][H:20])cc2O1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1ccc(O)c([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc(O)c([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"N#Cc1ncnc2nc[n:21]([H:20])c12.Nc1nc([O-:10])[nH+]c2nc[nH]c12>>N#Cc1ncnc2nc[n-:21]c12.Nc1nc([O:10][H:20])[nH+]c2nc[nH]c12 10=20;20,21=21",
"COc1ccc(O)c(C[NH:10]C(CO)C(=O)[O-])c1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>COc1ccc(O)c(C[NH+:10](C(CO)C(=O)[O-])[H:20])c1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[N+](C)(C)c1cccc([O:21][H:20])c1.OCCc1cnc(P(c2ncc(CCO)[nH]2)c2[nH]c(CCO)c[n:10]2)[nH]1>>C[N+](C)(C)c1cccc([O-:21])c1.OCCc1cnc(P(c2ncc(CCO)[nH]2)c2[nH]c(CCO)c[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"C[NH:10]CC[S-].N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C[NH+:10](CC[S-])[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C[N+:21](C)([C@H]1CCC[C@@H]1C#N)[H:20].[NH3+]c1ccccc1C(=O)N[NH2:10]>>C[N:21](C)[C@H]1CCC[C@@H]1C#N.[NH3+]c1ccccc1C(=O)N[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)SCC[N+:21](C)(C)[H:20].CC[N:10](O)CC>>CC(=O)SCC[N:21](C)C.CC[N+:10](O)(CC)[H:20] 10=20;20,21=21",
"CC[C@]1(O)C[C@@H](C)[NH:10][C@@H]2CCCC[C@H]21.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC[C@]1(O)C[C@@H](C)[NH+:10]([H:20])[C@@H]2CCCC[C@H]21.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CCCCCCP(CCCCCC)(CCCCCC)=[O+:21][H:20].c1ccc(P(c2ccccc2)(c2ccccc2)=[N:10]c2ccccc2)cc1>>CCCCCCP(CCCCCC)(CCCCCC)=[O:21].c1ccc(P(c2ccccc2)(c2ccccc2)=[N+:10](c2ccccc2)[H:20])cc1 10=20;20,21=21",
"Cc1cc(Nc2ccc([O-])cc2)c(C(C)C)cc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(Nc2ccc([O-])cc2)c(C(C)C)cc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[N:10]1[C@@H](C)[C@@H]1C.Nc1n(-c2ccc([N+](=O)[O-])cc2)nn[n+:21]1[H:20]>>CC[N+:10]1([H:20])[C@@H](C)[C@@H]1C.Nc1n(-c2ccc([N+](=O)[O-])cc2)nn[n:21]1 10=20;20,21=21",
"C=C(C)C(=O)NC(C)(C)CC[N:10](C)C.Nc1ccccc1[O:21][H:20]>>C=C(C)C(=O)NC(C)(C)CC[N+:10](C)(C)[H:20].Nc1ccccc1[O-:21] 10=20;20,21=21",
"CC(=CCl)C(=O)[O-:10].N#CC(C#N)=[N+:21](Nc1ccc(/N=N/c2ccccc2)cc1)[H:20]>>CC(=CCl)C(=O)[O:10][H:20].N#CC(C#N)=[N:21]Nc1ccc(/N=N/c2ccccc2)cc1 10=20;20,21=21",
"COCC[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])=C1>>COCC[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-:10])[C@H]1CC(=O)OC.O=P1([O:21][H:20])CCC1>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O:10][H:20])[C@H]1CC(=O)OC.O=P1([O-:21])CCC1 10=20;20,21=21",
"O=C([O-])C(CO)[NH:10]Cc1cc([N+](=O)[O-])ccc1[O-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>O=C([O-])C(CO)[NH+:10](Cc1cc([N+](=O)[O-])ccc1[O-])[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC[N:10](CC)CCC(C)=O.OCNc1nc(NCO)[n+:21]([H:20])c(NCO)n1>>CC[N+:10](CC)(CCC(C)=O)[H:20].OCNc1nc(NCO)[n:21]c(NCO)n1 10=20;20,21=21",
